US06028116
A solution of titanium tetrachloride (182 g, 0.96 mol, 1.2 equiv.) and α,α, -dichloromethylmethyl ether (110 g, 0.96 mol) in an equal volume of methylene chloride is slowly added (30 minutes) to a solution of o-fluoroanisole (101 g, 0.80 mol) in dry methylene chloride (50 ml) at 10-20° C. The mixture is stirred at room temperature for one hour, is poured over crushed ice water and ether (1 l ) with stirring. This mixture is stirred under nitrogen until solution occurs. The organic layer is extracted with water, aqueous sodium bicarbonate, and is dried (MgSO4). The solvent is evaporated at 30° C. The residual oil is vacuum-distilled through a jacketed Vigreux column to give 3-fluoro-4-methoxybenzaldehyde, B.P. 120-121° C. (10 mm Hg) Rf 0.6 on a silica-gel G plate with methylene chloride.

reactant | dichloromethylmethyl ether | 0.96 mol, 110 g | ClC(Cl)OC | C2H4Cl2O
reactant | o-fluoroanisole | 0.80 mol, 101 g | FC1=C(C=CC=C1)OC | C7H7FO
reactant | ether | 1 l | CCOCC | C4H10O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
catalyst | titanium tetrachloride | 0.96 mol, 182 g, 1.2 equiv. | [Ti](Cl)(Cl)(Cl)Cl
product | 3-fluoro-4-methoxybenzaldehyde | FC=1C=C(C=O)C=CC1OC | C8H7FO2
